US08389511B2
tert-Butyl (3R)-3-(isopropylamino)piperidine-1-carboxylate
Commercially available tert-butyl (3R)-3-aminopiperidine-1-carboxylate (6.67 g) was dissolved in ethanol (100 ml), and thereto were added acetone (12.2 ml) and acetic acid (2.0 ml), and the mixture was heated at 60° C. with stirring. Seven hours later, to the mixture was added sodium triacetoxyborohydride (9.67 g), and the mixture was stirred at room temperature for 14 hours. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with chloroform. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium hydrogen sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (the developing solvent: chloroform/methanol=30/1, 15/1, 10) to give the title compound (7.78 g) as a white solid.

reactant | tert-butyl (3R)-3-aminopiperidine-1-carboxylate | 6.67 g | N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | acetone | 12.2 ml | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 9.67 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetic acid | 2.0 ml | C(C)(=O)O | C2H4O2
product | tert-Butyl (3R)-3-(isopropylamino)piperidine-1-carboxylate | 7.78 g | C(C)(C)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C13H26N2O2
